US07189873B2
O-(3-methoxy-4-pent-2-ynyloxy-benzyl)-hydroxylamine (5.0 g, 21 mmol) and N-ethyldiisopropylamine (Hünig's base, 5.5 g, 42 mmol) are dissolved in 60 ml of N,N-dimethylformamide. 4-chloro-DL-mandelic acid (4.1 g, 22 mmol) and (benzotriazol-1-yloxy)-tris-(dimethylamino)-phosphonium hexafluorophosphate (BOP, Castro's reagent, 10 g, 23 mmol) are added successively and the mixture is stirred for 16 h. After pouring the mixture on ice/water, it is extracted with ethyl acetate. The combined organic layer is washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The remaining oil is purified by chromatography on silica gel (ethyl acetate/hexane (4:6)) to obtain 2-(4-chloro-phenyl)-2-hydroxy-N-(3-methoxy-4-pent-2-ynyloxy-benzyloxy)-acetamide as yellow resin.

reactant | O-(3-methoxy-4-pent-2-ynyloxy-benzyl)-hydroxylamine | 21 mmol, 5.0 g | COC=1C=C(CON)C=CC1OCC#CCC | C13H17NO3
reactant | N-ethyldiisopropylamine | 42 mmol, 5.5 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-chloro-DL-mandelic acid | 22 mmol, 4.1 g | ClC1=CC=C(C(C(=O)O)O)C=C1 | C8H7ClO3
reactant | (benzotriazol-1-yloxy)-tris-(dimethylamino)-phosphonium hexafluorophosphate | 23 mmol, 10 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-(4-chloro-phenyl)-2-hydroxy-N-(3-methoxy-4-pent-2-ynyloxy-benzyloxy)-acetamide | ClC1=CC=C(C=C1)C(C(=O)NOCC1=CC(=C(C=C1)OCC#CCC)OC)O | C21H22ClNO5
